US06320076B1
A process as set forth in claim 1 wherein 2-hydroxy-4-methylthiobutanenitrile is hydrolyzed in the presence of sulfuric acid to produce an intermediate hydrolyzate comprising 2-hydroxy-4-(methylthio)butanamide; and

reactant | 2-hydroxy-4-methylthiobutanenitrile | OC(C#N)CCSC | C5H9NOS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-hydroxy-4-(methylthio)butanamide | OC(C(=O)N)CCSC | C5H11NO2S
